US05120843
4-(6-bromohexyloxy)phenol
A mixture of hydroquinone (16.5 g), 1,6-dibromohexane (7.32 g) and ethanol (60 ml) is added dropwise over 3-5 min to a solution of potassium hydroxide (85%, 2.0 g) and ethanol (20 ml). The mixture is heated at reflux for 4 hr and then allowed to cool. Silica gel (30 g) is added to the solution and the ethanol is removed at reduced pressure. The residue is chromatographed on silica gel (200 g) and eluted with ethyl acetate/hexane (33/67) to give the title compound, m.p. 43°-45°; MS (m/e)=272, 274 (M+).

reactant | hydroquinone | 16.5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 1,6-dibromohexane | 7.32 g | BrCCCCCCBr | C6H12Br2
reactant | potassium hydroxide | 2.0 g | [OH-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-(6-bromohexyloxy)phenol | BrCCCCCCOC1=CC=C(C=C1)O | C12H17BrO2
